US05556990
3-Hydroxy-3,4-bis(ethoxycarbonyl)butanoic acid
A solution of triethyl citrate (34.1 g, 123 mmol) in ethanol and water (30 ml) is treated with sodium hydroxide (3.70 g, 92.6 mmol) and stirred at room temperature under argon for 4.5 hours. The reaction mixture is concentrated on a rotary evaporator then diluted with water (50 ml). The pH is adjusted to ca. 1 using 2N HCl. The aqueous solution is then extracted with a large excess of chloroform (4×150 ml). The combined organic layers are dried (MgSO4), filtered and concentrated to give crude oil. Purification by flash chromatography (5% MeOH/CH2Cl2 to 1% AcOH/5%MeOH/CH2Cl2) gives 8.72 g of product (38% as a racemate.

reactant | triethyl citrate | 123 mmol, 34.1 g | C(CC(O)(C(=O)OCC)CC(=O)OCC)(=O)OCC | C12H20O7
reactant | sodium hydroxide | 92.6 mmol, 3.70 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 3-Hydroxy-3,4-bis(ethoxycarbonyl)butanoic acid | 8.72 g | OC(CC(=O)O)(CC(=O)OCC)C(=O)OCC | C10H16O7
